US04451473
18.3 g of 3,7-dimethyl-3,7-diazabicyclo[3.3.1]nonane-9-ol are reacted with 13.5 g of benzyl chloride for 4 hours at room temperature as described in Example 1. 9 g (32.3%) of 3,7-dimethyl-9-benzyloxy-3,7-diazabicyclo[3.3.1]nonane are obtained; b.p.: 137°-148° C./10 Pa. The free base rapidly crystallizes upon standing; m.p.: 70°-75° C.

reactant | 3,7-dimethyl-3,7-diazabicyclo[3.3.1]nonane-9-ol | 18.3 g | CN1CC2CN(CC(C1)C2O)C | C9H18N2O
reactant | benzyl chloride | 13.5 g | C(C1=CC=CC=C1)Cl | C7H7Cl
product | 3,7-dimethyl-9-benzyloxy-3,7-diazabicyclo[3.3.1]nonane | 9 g, 32.3% | CN1CC2CN(CC(C1)C2OCC2=CC=CC=C2)C | C16H24N2O
